US05194603
As the solvent, acetic acid, propionic acid, butyric acid or the like is usable. The reaction temperature can be controlled by considering the kind of the solvent and the other conditions, usually a temperature of 80°-120° C. is selected. The reaction time is 5-12 hours, preferably 5-8 hours. After such condensation of these compounds, the tarry reaction mixture obtained by filtrating the reaction solution is purified by, for example, silica gel chromatography or the like to obtain 5,10,15,20-tetra(2',6'-dimethoxyphenyl)porphyrin. Then, 5,10,15,20-tetra(2',6'-dimethoxyphenyl)porphyrin is dissolved in a suitable dry solvent (dichloromethane, chloroform, tetrahydrofuran or the like), cooled in an ice-water bath 40 times or more of the molar quantity of boron tribromide is added and the mixture is stirred at room temperature for 10-24 hours. The reaction solution is poured dropwise into ice water, the solution is extracted by an organic solvent such as ethyl acetate, the organic layer is evaporated to dryness, and the solid is purified by silica gel chromatography to obtain 5,10,15,20-tetra(2',6'-dihydroxyphenyl)porphyrin (in the above process, the compound represented by H2T2,6-OH PP).

reactant | 5,10,15,20-tetra(2',6'-dimethoxyphenyl)porphyrin | COC1=C(C(=CC=C1)OC)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=C(C=CC=C4OC)OC)N3)C3=C(C=CC=C3OC)OC)=N2)C2=C(C=CC=C2OC)OC | C52H46N4O8
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5,10,15,20-tetra(2',6'-dihydroxyphenyl)porphyrin | OC1=C(C(=CC=C1)O)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=C(C=CC=C4O)O)N3)C3=C(C=CC=C3O)O)=N2)C2=C(C=CC=C2O)O | C44H30N4O8
